US06156700
Preparation of 3-(3-Chloro-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 3-(3-chloro-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (1.06 g), potassium carbonate (0.470 g) and iodomethane (0.500 mL) in N,N-dimethylformamide is stirred at room temperature for 90 minutes, treated with additional iodomethane (0.500 mL), stirred at room temperature for 15 minutes, and diluted with water. The resultant aqueous mixture is filtered to obtain a solid. The solid is washed with water and dried in a vacuum oven at room temperature to give the title product as a solid which is identified by NMR spectral analysis.

reactant | 3-(3-chloro-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 1.06 g | ClC1=NSC2=C1C=C(C=C2)N2C(NC(=CC2=O)C(F)(F)F)=O | C12H5ClF3N3O2S
reactant | potassium carbonate | 0.470 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.500 mL | IC | CH3I
reactant | iodomethane | 0.500 mL | IC | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(3-Chloro-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | ClC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C13H7ClF3N3O2S
